US07863310B2
N-[methoxy]-N-[methyl]3-cyclopentylamino-4-aminobenzamide
Combine N-[methoxy]-N-[methyl]3-cyclopentylamino-4-nitrobenzamide (2.0 g, 6.82 mmol), ammonium formate (2.1 g, 34.1 mmol), and 0.36 g (3.41 mmol) Pd(C) in ethanol (25 mL). Heat the mixture to 60° C. and stir for two hours. Cool to room temperature and filter through a pad of celite. Concentrate the filtrate under reduced pressure to provide the desired compound (1.79 g).

reactant | N-[methoxy]-N-[methyl]3-cyclopentylamino-4-nitrobenzamide | 6.82 mmol, 2.0 g | CON(C(C1=CC(=C(C=C1)[N+](=O)[O-])NC1CCCC1)=O)C | C14H19N3O4
reactant | ammonium formate | 34.1 mmol, 2.1 g | C(=O)[O-].[NH4+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | N-[methoxy]-N-[methyl]3-cyclopentylamino-4-aminobenzamide | 1.79 g | CON(C(C1=CC(=C(C=C1)N)NC1CCCC1)=O)C | C14H21N3O2
